US04992444
A suspension of 2,4-Diamino-5-(4-chloro-3-nitro phenyl)-6-ethylpyrimidine (nitropyrimethamine) (10 g) in aqueous methylamine solution (40%; 200 ml) was refluxed for 48 hours with the further addition of methylamine solution (100 ml) after 24 hours and 36 hours. An orange colour slowly developed and the consumption of starting material was monitored by t.l.c. After cooling and dilution with water, the crystalline product was collected and recrystallized from aqueous DMF to yield orange prisms of 2,4-Diamino-5-(4-methylamino-3-nitrophenyl)-6-ethylpyrimidine (9.0 g. 92%), m.p. 262°-265° C. (Elemental analysis: C, 53.9; H, 5.9; N, 29.3%; calculated: C, 54.2; H, 5.6; N, 29.2%).

reactant | 2,4-Diamino-5-(4-chloro-3-nitro phenyl)-6-ethylpyrimidine | 10 g | NC1=NC(=C(C(=N1)N)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])CC | C12H12ClN5O2
reactant | methylamine | 200 ml | CN | CH5N
reactant | methylamine | 100 ml | CN | CH5N
product | 2,4-Diamino-5-(4-methylamino-3-nitrophenyl)-6-ethylpyrimidine | 9.0 g, 92% | NC1=NC(=C(C(=N1)N)C1=CC(=C(C=C1)NC)[N+](=O)[O-])CC | C13H16N6O2
